Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I started having a panic attack on ___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Per Dr. ___ ___ ED Initial Psychiatry Consult
note:

"The patient reports that he was receiving consistent 
psychiatric follow up with Dr. ___, and therapy with ___ 
___ RN out of ___. He states that he last saw these 
providers approximately ___ months ago. He states that he found 
limited benefit from therapy at that time, and found it 
difficult to get to his appointments with his work schedule. He 
then reports that he discontinued his escitalopram 40 mg at that 
time as he did not find this medication was helping him much.

Recently, patient reports that he has been increasingly 
isolated, with worsening rumination and intrusive thoughts 
surrounding feelings of negative self thinking. Patient endorses 
feelings of worthlessness and helplessness, reports low energy. 
He reports that he has been sleeping ___ hours nightly recently, 
however last night he had intrusive thoughts of ending his life 
and occasional ideas of a plan to hang himself fro a tree. He 
states that he did not have an specific tree or more specific 
plan, and he denies any intent at this time. Patient reports 
that he generally feels low, however this episode is the "worst 
its ever been. When asked about his day yesterday he states that 
he was "on hyperdrive" he went for a run, was cleaning his 
apartment, making dinner, doing laundry, and then binge watched 
a television show called ___ which he reports he thinks put 
him in a "dark place" as this had many dark and negative themes. 
 At this time he denies specific suidical ideation, however 
states that these thoguhts are in the "back of his head" he has 
not plan or intent. Denies any history of AVH. Denies any 
violent ideation or history of violence in the past."

In the ED, the patient was started Venlafaxine ER 75 mg QAM and 
Seroquel 25 mg QHS which the patient reported as helpful and 
well-tolerated. Patient was otherwise in good behavioral control 
with no need for physical or chemical restraints.

On interview today, the patient endorsed that his depressive 
symptoms took a major turn towards worsening after he 
experienced a "panic attack" on ___ night which the patient 
described as a sense of dread when considering his many 
responsibilities. The patient said that he has experienced panic 
attacks like this one before, but that the one he had on ___ 
was the worst he's ever had. When he arrived to the ER, he noted 
he felt "pretty agitated inside" but that since starting the 
medications prescribed in the ED, this feeling of agitation has 
improved. He said that he has been crying a lot since arriving 
to the hospital, and that he is still experiencing frequent 
feelings of hopelessness and despair. The patient confirmed the 
symptoms elicited on previous encounters as documented above, 
and continued to endorse passive SI with thoughts of "wanting it 
to be over-I just don't want to be in pain anymore." The patient 
said that he has been having thoughts of hanging himself in the 
back of his mind, but that he has no specific plan (has no 
picked out location or means to complete the hanging) nor does 
he have any intent to end his life. He endorsed feeling safe on 
the unit an the ability to speak to available staff if he were 
having suicidal thoughts. 

REVIEW OF SYSTEMS:
-Psychiatric: 
 ---Depression: As per HPI. Reports depressed mood, low of 
energy, anhedonia, thoughts of death/SI, sleep disturbance 
including insomnia, poor concentration. Denies psychomotor 
agitation or retardation. 
 ---Anxiety: Reports symptoms of anxiety such as rumination, 
intrusive thoughts. Denies, avoidance, phobias, panic. 
 ---Mania: Denies symptoms of mania such as distractibility, 
erratic/risky behavior, grandiosity, flight of ideas, increased 
activity, decreased need for sleep, or talkativeness/pressured 
speech.  
 ---Psychosis: Denies symptoms of psychosis such as auditory or 
visual hallucinations, or delusions of reference, paranoia, 
thought insertion/broadcasting/withdrawal. 
 -General: Denies fatigue, fever, chills, nightsweats, headache, 

changes in vision, changes in hearing,  polyuria, polydipsia, 
cough, SOB, CP, palpitations, abdominal pain, nausea, vomiting, 
diarrhea, constipation, melena, blood in stools, dysuria, 
increased urinary frequency, rash, skin changes, joint pain, 
muscle pain, edema, bruising, bleeding.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
- Prior diagnoses: Per patient Anxiety and Depression
- Hospitalizations: none; one prior ED visit for "overnight
watch" in ___ while in college (Pt. reports significant
difficulties in college, with limited friends and significant
depressive symptoms)
- Current treaters and treatment: none; previously seeing
psychiatrist: Dr. ___, and therapist: ___ RN last
seen ___ months ago
- Medication and ECT trials: Reports Wellbutrin trial with
poor effect ("didn't work")
- Suicide attempts: denies
- Self-injurious behavior: denies
- Harm to others: denies
- Access to weapons: denies

PAST MEDICAL HISTORY:
**PCP: Dr. ___ history of head trauma, seizure.

MEDICATIONS:
Vitamin B12 and Zinc
Otherwise, Not taking any medications prior to arrival to 
hospital 

ALLERGIES: 
NKDA

SUBSTANCE USE HISTORY:
-Tobacco: denies
-Alcohol: Drinks ___ beers ___ days a week with once to twice
monthly episodes of binge drinking ___ drinks to the point of
brown/blacking out. Denies history of alcohol withdrawal, DTs,
seizures.
---Blackouts: once every few months
-Other Drugs: Denies

FORENSIC HISTORY:
- Arrests: one arrest for drunk and disorderly conduct
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): denies

 
Social History:
SOCIAL HISTORY:
- Born/Raised: ___, ___
- Family/Support: Patient has ex-girlfriend (___) with 
whom he speaks regularly and who lives in ___ Patient close 
with his family who lives in ___, speaks with his mother, 
also noted one close friend from high school he's still in 
contact with
- Relationship status/Children: Single relationship status, no 
children
- Housing: lives alone in ___ in ___
- Education: Patient graduated college from ___ with a 
degree in Neuroscience; Hoping to return to graduate school for 
Psychology, currently working on applications  
- Employment/Income: Patient currently works as ___ 
___ at a research ___ for alzheimers disease. IS 
unhappy with his job and currently hoping to return to school.
- Spiritual: denies that his spirituality is any source of 
strength for him
- Trauma history: detailed an incident where his brother became 
physically aggressive with the patient's parents and noted this 
was somewhat traumatic for him

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-History of psychiatric disorders: reports unknown mental 
illness and substance use in maternal uncles. (estranged) Also 
notes that he belives his brother might have ___ Spectrum 
Disorder, but he's unsure of official diagnosis.
-History of suicide attempts: denies
-History of substance use: denies
 
Physical Exam:
ADMISSION EXAM:
VITAL SIGNS:
T 97.9 PO; BP 132/75; P 63; RR 18; sat 97%

EXAM:
General: No apparent distress
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Above average
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the 
other side" as "Appearances can be deceiving"
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed, 
wearing hospital gown, in no apparent distress
-Behavior: Sitting up in chair, avoidant of eye contact, no 
psychomotor agitation noted, slight psychomotor retardation 
-Attitude: Cooperative
-Mood: "Depressed"
-Affect: Mood-congruent, restricted range, appropriate to 
situation
-Speech: slowed rate, decreased volume, slow to answer, and 
normal tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Passive SI, denies violent ideation
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Fair
-Judgment: Guarded

DISCHARGE EXAM:
Vitals:
T 97.4  BP 122/76  HR 61  RR 16  O2 Sat 98% on RA 

Mental Status Exam:
-Appearance: ___ man appearing stated age, somewhat 
disheveled, wearing scrub pants and long sleeve shirt, in no 
apparent distress 
-Psychomotor: No psychomotor agitation
-Behavior/Attitude: Sitting up in chair, somewhat avoidant of 
eye contact but more eye contact in comparison to yesterday, 
cooperative to interview
-Mood: "ok"
-Affect: restricted
-Speech: normal rate, slightly decreased volume, normal tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, ideas of reference, etc 
based on current encounter
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Limited 

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to self, situation, place and time
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
 
Pertinent Results:
CBC, BMP, UA WNL
Urine and serum tox screens negative
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11), followed by a 3-day notice a few 
hours later. Pt remained on that level throughout their 
admission. He was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.

2. PSYCHIATRIC:
Patient is a ___ man with a reported history of 
depression and anxiety and no previous psychiatric 
hospitalizations who self presented to the emergency room 
endorsing worsening symptoms of depression and suicidal 
ideation. On arrival to Deac 4, patient reported that he had a 
history of worsening symptoms of depression around this time 
every year for the past ___ years, and that he also discontinued 
lexapro ___ months ago and stopped seeing his therapist and 
psychiatrist.  Additionally, patient also reported situational 
stressors, such as job dissatisfaction and worsening alcohol 
consumption (reported ___ drinks a night most nights of the 
week). On initial exam, he demonstrated mood congruent depressed 
affect with prominent psychomotor slowing, in-line with endorsed 
neurovegetative symptoms. Thought process was linear without 
loosening, but affect was restricted with somewhat slowed rate 
of speech and reduced volume of speech. His presentation was 
felt to be most consistent with major depressive disorder, 
recurrent, in addition to problematic alcohol use disorder. He 
denied suicidal ideation on arrival and was accepting of 
medications. He was continued on effexor XR (started in the ED), 
which was increased to 150 mg. Patient's prior psychiatrist was 
contacted for additional collateral information, Dr. ___. 
Dr. ___ was concerned about patient's commitment to treatment 
along with alcohol use issues. He indicated that patient had 
previously attended AA which was helpful for him. He did agree 
to take patient back to the practice if patient would reach out 
and contact himself and former therapist ___ to demonstrate his 
willingness to re-engage in treatment.

Despite being somewhat minimizing of alcohol use at times, 
patient demonstrated his willingness to obtain help for himself. 
He reached out to his outpatient providers and told team of his 
commitment to engaging in outpatient substance abuse treatment 
along with additional outpatient psychiatric support through the 
___ HRI evening partial program, which patient was set up 
with. His affect and psychomotor retardation improved; patient 
appeared brighter and was future-oriented. He reported he was no 
longer experiencing suicidal ideation and did not have any 
further dreams about his death. Additionally, a family meeting 
with patient, mother, father, and sister was held on the unit to 
discuss patient's current mental status and interventions made 
since admission (trial of venlafaxine, referral to IOP, 
collateral contact with previous providers). Parents expressed 
willingness to stay with the patient in his apartment for the 
weekend and through the following 2 weeks (Mother would stay for 
the weekend; father will be in town for business this upcoming 
week, then patient would be going home for ___). 
Parents also clarified with the team that patient had never 
attempted to harm himself and had never been hospitalized 
psychiatrically (despite unclear prior reports), and while 
agreeing he was depressed, they wanted the team to know that 
patient is a quiet, more subdued person at baseline. They asked 
appropriate questions about warning signs of worsening 
depression. They advocated for discharge at the expiration of 
his 3-day given the additional support that they would be 
providing patient (staying with him at his apartment), and also 
due to the additional outpatient support patient would be 
receiving (IOP, seeing therapist & psychiatrist). The inpatient 
team agreed with this plan for discharge to care of family and 
bolstered community supports.

3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder: Patient reported regular, almost daily 
use of alcohol (reported ___ drinks about ___ nights per week). 
He was provided support and counseling regarding the deleterious 
effects of alcohol and offered to attend AA recovery groups on 
the unit. He was provided with additional information about 
community-based resources for support, including local AA 
meeting times and locations. The team discussed naltrexone with 
the patient during the family meeting, which patient was 
interested in trying again (had been on in the past per 
outpatient psychiatrist) but given discharge planned for the 
next day, deferred this to his outpatient psychiatrist.

4. MEDICAL:
No acute or chronic medical illnesses. Primary care follow-up 
arranged. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups focus on teaching 
patients various coping skills, which patient utilized 
effectively.  Patient was cooperate with his team and engaged in 
helping to arrange his own follow-up.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
As mentioned above, the team obtained collateral from outpatient 
providers ___ and ___ at "___" in 
___. A family meeting took place with mother (___), 
father, and sister. Please see above "psychiatric" section for 
details on collaboration with family and outpatient providers. 

#) INTERVENTIONS
- Medications: Venlafaxine XR 150mg PO daily 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy
- Coordination of aftercare: Appointments arranged for patient 
with therapist and psychiatrist at "___" for next week. 
Patient also set up with evening Intensive Outpatient Program 
(IOP) in ___ at ___. He was also provided with 
information on AA meetings and locations.
- Behavioral Interventions: encouraged various coping skills, 
attending AA meetings.
- Guardianships: none 

INFORMED CONSENT:
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting effexor, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.   We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS:
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
worsening depression and suicidal ideation. His static factors 
noted at that time include history of chronic mental illness, 
history of substance abuse (EtOH), male gender, Caucasian race, 
age, and single marital status.  The modifiable risk factors 
were also addressed at that time, including medication 
noncompliance, lack of engagement with outpatient treatment, and 
active substance abuse.  The modifiable risk factors were 
addressed with individual and group therapy sessions, 
re-initiation of anti-depressant, counseling on substance use, 
and coordination of aftercare (outpatient providers and IOP). 
Finally, the patient is being discharged with many protective 
factors, including help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family, reality testing 
ability, lack of suicidal ideation, lack of prior suicide 
attempts, educational achievement, and strong social supports 
from family. Patient demonstrated preserved capacity to engage 
in a meaningful discussion about safety planning in the event of 
worsening symptoms of depression or thoughts of suicide arise. 
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 
 
Medications on Admission:
None
 
Discharge Medications:
Venlafaxine XR 150 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
F33.2Major depressive disorder, Recurrent episode, Severe
F10.20Alcohol use disorder, Moderate

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___